US07399759B2
4,4′-Dimethyl-2,2′-bipyridyl N-oxide
4,4′-Dimethyl-2,2′-bipyridyl (4.8 g, 26 mmol) and 3-chloroperbenzoic acid (77%, 8.7 g, 39 mmol) were dissolved in chloroform (25 ml), and the mixture was stirred at room temperature for 24 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethylacetate-methanol (4:1, v/v) were collected, concentrated and crystallized from dimethyl ether to give the titled compound (3.7 g, 71%).

reactant | 4,4′-Dimethyl-2,2′-bipyridyl | 26 mmol, 4.8 g | CC1=CC(=NC=C1)C1=NC=CC(=C1)C | C12H12N2
reactant | 3-chloroperbenzoic acid | 39 mmol, 8.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,4′-Dimethyl-2,2′-bipyridyl N-oxide | 3.7 g, 71% | CC=1C=C([N+](=CC1)[O-])C1=NC=CC(=C1)C | C12H12N2O
